US06326369B1
2-[4-(4-Carboxy-1-oxabutyl)phenyl]-4,5,6,7-tetramethoxy-2-indancarboxylic acid
An aqueous sodium hydroxide solution (3 N, 0.440 ml, 1.32 mmols) was added to an ethanol (4 ml) solution of ethyl 2-[4-(4-ethoxycarbonyl-1-oxabutyl)phenyl]-4,5,6,7-tetramethoxy-2-indancarboxylate (342 mg, 0.662 mmols), and heated under reflux for 6 hours. The reaction mixture was concentrated in vacuo, diluted with water, made acidic by adding 10% hydrochloric acid, and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out, and the resulting crude product was purified by recrystallization (from hexane-ethyl acetate) to obtain the entitled compound (300 mg) as crystals.

reactant | sodium hydroxide | 1.32 mmols, 3 N, 0.440 ml | [OH-].[Na+]
reactant | ethyl 2-[4-(4-ethoxycarbonyl-1-oxabutyl)phenyl]-4,5,6,7-tetramethoxy-2-indancarboxylate | 0.662 mmols, 342 mg | C(C)OC(=O)CCCOC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C28H36O9
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-[4-(4-Carboxy-1-oxabutyl)phenyl]-4,5,6,7-tetramethoxy-2-indancarboxylic acid | 300 mg | C(=O)(O)CCCOC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)O | C24H28O9
